US08247401B2
Step B: Methyl 3-[(methylamino)carbonyl]-5-(5-methylpyridin-2-yl)benzoate
To a solution of 3-(methoxycarbonyl)-5-(5-methylpyridin-2-yl)benzoic acid (1.85 g, 6.82 mmol) in N,N-dimethylformamide (20 mL) was added 2 M ammonia in dioxane (10.2 mL, 20.4 mmol), EDC (2.61 g, 13.6 mmol), HOBT (2.09 g, 13.6 mmol) and N,N-diisopropylethylamine (4.76 mL, 27.3 mmol). After 16 h, the reaction was concentrated and the residue was dissolved in 200 ml of dichloromethane. The mixture was washed with 100 mL of saturated aqueous sodium bicarbonate solution (2×) and brine (100 ml). The combined organic extracts were dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (1% ethyl acetate/hexane→60% ethyl acetate/hexane) to give the title compound (1.82 g). MS 285.1 (M+1).

reactant | 3-(methoxycarbonyl)-5-(5-methylpyridin-2-yl)benzoic acid | 6.82 mmol, 1.85 g | COC(=O)C=1C=C(C(=O)O)C=C(C1)C1=NC=C(C=C1)C | C15H13NO4
reactant | ammonia | 2 M | N | H3N
reactant | dioxane | 20.4 mmol, 10.2 mL | O1CCOCC1 | C4H8O2
reactant | EDC | 13.6 mmol, 2.61 g
reactant | HOBT | 13.6 mmol, 2.09 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 27.3 mmol, 4.76 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Methyl 3-[(methylamino)carbonyl]-5-(5-methylpyridin-2-yl)benzoate | 1.82 g | CNC(=O)C=1C=C(C(=O)OC)C=C(C1)C1=NC=C(C=C1)C | C16H16N2O3
